US04952600
A solution of 35.6 ml of benzylchloroformate in 200 ml of dichloromethane was added dropwise to a mixture of 10 g of (racemic)-3-pyrrolidinol, 48.3 ml of triethylamine and 725 ml of dichloromethane which was cooled to 0° C. The mixture was stirred for 48 hours at room temperature. The dichloromethane solution was extracted with 5% hydrochloric acid and 5% aqueous sodium bicarbonate. The acid and bicarbonate washes were combined, salted with sodium chloride and extracted with 2×750 ml of ethyl acetate. The combined organic extracts were dried and concentrated, giving 22.7 g of (racemic)-N-carbobenzyloxy-3-pyrrolidinol. A mixture of 2.5 g of (racemic)-N-carbobenzyloxy-3-pyrrolidinol, 2.0 ml of methyl iodide and 5.1 g of silver oxide in 50 ml of dimethylformamide was stirred at room temperature for 2 days. The mixture was diluted with ether and then filtered. The filtrate was concentrated to a small volume. The ether solution was washed with water, dried and concentrated to dryness in vacuo. The residue was purified by chromatography (silica gel) to give 2.4 g of (racemic)-N-carbobenzyloxy-3-methoxypyrrolidine as a pale yellow oil.

reactant | (racemic)-N-carbobenzyloxy-3-pyrrolidinol | 2.5 g | C(=O)(OCC1=CC=CC=C1)N1CC(CC1)O | C12H15NO3
reactant | methyl iodide | 2.0 ml | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | silver oxide | 5.1 g | [Ag]=O
product | (racemic)-N-carbobenzyloxy-3-methoxypyrrolidine | 2.4 g | C(=O)(OCC1=CC=CC=C1)N1CC(CC1)OC | C13H17NO3
